US04992474
Benzenehexanol
(3-Bromopropyl)benzene (20 g) in THF (75 ml) was added dropwise to magnesium (2.43 g) at a rate to maintain gentle reflux. The mixture was stirred for 2 h at RT and oxetane (10 g) was added dropwise. The resulting suspension was stirred at RT for 2 h and at reflux for 16 h and poured into saturated aqueous NH4Cl (100 ml). The mixture was extracted with ER (3×75 ml) and the dried extract was evaporated to leave a yellow oil. Distillation of the oil gave the title compound as a colourless liquid (6.05 g) b.p. 100°-105°/0.4 mmHg. T.l.c. [O] Rf 0.3.

reactant | (3-Bromopropyl)benzene | 20 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | magnesium | 2.43 g | [Mg] | Mg
reactant | oxetane | 10 g | O1CCC1 | C3H6O
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | Benzenehexanol | 6.05 g | C1(=CC=CC=C1)CCCCCCO | C12H18O
